US09314414B2
Production of 2-propylheptyl Caproate by Esterification
158.3 g 2-propylheptanol (1 mol) and 116.2 g caproic acid (1 mol) were heated for 4 h to 220° C. on a water separator together with 0.27 g Fascat® 2001 (Sn oxalate: 0.1% by weight, based on the composition as a whole). After the separation of water had stopped, the crude product was distilled in an oil pump vacuum through a 250 mm Vigreux column (T=111-126° C.). 251.4 g of a colorless oil were obtained: OHV=<1, AV=<0.1.

reactant | 2-propylheptanol | 1 mol, 158.3 g | C(CC)C(CO)CCCCC | C10H22O
reactant | caproic acid | 1 mol, 116.2 g | C(CCCCC)(=O)O | C6H12O2
solvent | water | O | H2O
product | 2-propylheptyl Caproate | 251.4 g | C(CCCCC)(=O)OCC(CCCCC)CCC | C16H32O2
